### PR TITLE
use ring_scope in weightedmean.v

### PR DESCRIPTION
**Pull request by t6s**
- every section now uses ring_scope
- added several generic lemmas (Section saikawa20240303)
- Pr WP good != 0 is not necessary in bound_emean (Lemma invariantW_pr_good_neq0 : invariantW -> Pr WP good != 0.)

### CODE REVIEW

File: weightedmean.v [hunk 1]
```diff
@@ -55,11 +56,125 @@ Require Import robustmean util.
...
+Qed.
+
+(* to ssrnum? *)
+Lemma ler_abs_sqr (T : realDomainType) (x y : T) : (`|x| <= `|y|) = (x ^+ 2 <= y ^+ 2).
+Proof. by rewrite -ler_sqr ?nomr_nneg // !real_normK ?num_real. Qed.
+
+(* TODO: use ring_scope in robustmean.v *)
+Lemma cresilience'
+  (V : finType) (PP : {fdist V}) (delta : R) (XX : {RV (PP) -> (R)}) (F G : {set V}) :
+  0 < delta -> delta <= Pr PP F / Pr PP G -> Pr PP F <= Pr PP G -> F \subset G ->
```
Comment (affeldt-aist) [inline weightedmean.v]: Note that `cresilience` has changed in `robustmean.v` and that you should not need the hypo `Pr PP F <= Pr PP G` anymore.

File: weightedmean.v [hunk 2]
```diff
@@ -55,11 +56,125 @@ Require Import robustmean util.
...
+  (\big[Order.max/x]_(i <- r | PP i) F i <= m)%O.
+Proof.
+apply:(iffP idP); last by case; exact:bigmax_le'.
+move=> bm; split; first by exact/(le_trans _ bm)/bigmax_ge_id.
+by move=> *; exact/(le_trans _ bm)/le_bigmax_seq.
+Qed.
+
+Section topology_ext.
+Import boolp.
+(* variant of robustmean.bigmaxR_ge0_cond, should be moved to topology.v *)
```
Comment (affeldt-aist) [inline weightedmean.v:152]: Note that most bigmin/bigmax lemmas are in MathComp now.

**Comment by affeldt-aist** [comment]
We should maybe have mathcomp_extra.v and and infotheo_extra.v files to make it clear that these are easy additions to other libraries so that they do not clutter the main file.

File: weightedmean.v (hunk 2 above)
Comment (t6s) [reply weightedmean.v:152]: Should I then work harder to avoid using boolp?

**Comment by t6s** [comment]
> We should maybe have mathcomp_extra.v and and infotheo_extra.v files to make it clear that these are easy additions to other libraries so that they do not clutter the main file.

that's necessary towards a release

**Comment by affeldt-aist** [comment]
oops, did we forget to merge this one? @hoheinzollern @t6s
